US07319099B2
Preparation of (2-Fluoro-6-isopropoxy-3-methanesulfonyl-phenyl)-[4-(2-fluoro-4-methanesulfonyl-phenyl)-piperazin-1-yl]-methanone
0.2 mmol of (2,6-difluoro-3-methanesulfonyl-phenyl)-[4-(2-fluoro-4-methanesulfonyl-phenyl)-piperazin-1-yl]-methanone were dissolved in a solution of sodium isopropanolate (prepared by dissolving 0.2 mmol of sodium in 1 ml of isopropanol). The reaction mixture was heated to 50° C. for 2 hours, then stirred at room temperature for 48 hours. The solution was diluted with water and extracted with ethyl acetate. The product was purified by chromatography (SiO2, ethyl acetate/cyclohexane 9:1) to yield the title compound as a colorless solid. MS (m/e): 517.1 (MH+, 100%)

reactant | (2,6-difluoro-3-methanesulfonyl-phenyl)-[4-(2-fluoro-4-methanesulfonyl-phenyl)-piperazin-1-yl]-methanone | 0.2 mmol | FC1=C(C(=CC=C1S(=O)(=O)C)F)C(=O)N1CCN(CC1)C1=C(C=C(C=C1)S(=O)(=O)C)F | C19H19F3N2O5S2
reactant | sodium isopropanolate | 0.2 mmol, 1 ml | C(C)(C)[O-].[Na+]
reactant | water | O | H2O
product | (2-Fluoro-6-isopropoxy-3-methanesulfonyl-phenyl)-[4-(2-fluoro-4-methanesulfonyl-phenyl)-piperazin-1-yl]-methanone | FC1=C(C(=CC=C1S(=O)(=O)C)OC(C)C)C(=O)N1CCN(CC1)C1=C(C=C(C=C1)S(=O)(=O)C)F | C22H26F2N2O6S2
